US06303790B1
3.5 ml (47.6 mMol) Thionylchloride and 50 □l DMF were added to a suspension of 5.0 g (31.7 mMol) 6-chloronicotinic acid in 50 ml toluene and the reaction mixture was heated at 80° C. for 2 hours. The solvent and excess thionyl chloride were removed under reduced pressure and the residue was dissolved in 50 ml dichloromethane. After cooling to 0° C., 10.4 ml (95.2 mMol) benzylamine were added over 20 minutes and after 30 minutes further stirring at room temperature, the reaction mixture was poured onto 50 ml aqueous saturated sodium bicarbonate solution. Extraction with dichloromethane, followed by crystallization from ethyl acetate/n-hexane 2:1 gave 6.13 g (78%) N-benzyl-6-chloro-nicotinamide as light brown crystals of m.p.=113-114° C.

reactant | Thionylchloride | 47.6 mMol, 3.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 6-chloronicotinic acid | 31.7 mMol, 5.0 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
reactant | benzylamine | 95.2 mMol, 10.4 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | DMF | CN(C)C=O | C3H7NO
product | N-benzyl-6-chloro-nicotinamide | 6.13 g, 78% | C(C1=CC=CC=C1)NC(C1=CN=C(C=C1)Cl)=O | C13H11ClN2O
